US08623889B2
Step 5: 7-chloro-2,6-naphthyridin-3-amine
Trifluoroacetic acid (0.43 mL, 5.5 mmol) was added to a solution of tert-butyl 7-chloro-2,6-naphthyridin-3-ylcarbamate (410 mg, 1.4 mmol) in dichloroethane (7 mL). After 4 hours, the reaction mixture was concentrated in vacuo, diluted with methylene chloride (50 mL), and washed with saturated aqueous sodium bicarbonate solution (20 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-100% ethyl acetate in heptane) to afford the title compound as a yellow solid (230 mg, 86%), which was used in the next step without further purification.

reactant | Trifluoroacetic acid | 5.5 mmol, 0.43 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 7-chloro-2,6-naphthyridin-3-ylcarbamate | 1.4 mmol, 410 mg | ClC1=NC=C2C=C(N=CC2=C1)NC(OC(C)(C)C)=O | C13H14ClN3O2
solvent | dichloroethane | 7 mL | ClC(C)Cl | C2H4Cl2
product | 7-chloro-2,6-naphthyridin-3-amine | 230 mg, 86% | ClC1=NC=C2C=C(N=CC2=C1)N | C8H6ClN3
